US07763657B2
Step 2: 4-Amino-3-trifluoromethylbenzonitrile
4-Iodo-2-trifluoromethylphenylamine (50 mg, 0.17 mmol), Zn(CN)2 (0.88 eq, 0.15 mmol, 18.00 mg), and Pd(PPh3)4 (0.1 eq, 0.02 mmol, 19.64 mg) were added in DMF. Zn(CN)2 (0.88 eq, 0.15 mmol, 18.00 mg) and Pd(PPh3)4 (0.1 eq, 0.02 mmol, 19.64 mg) were added into the reaction mixture. The reaction mixture was stirred for 12 hr. The reaction mixture was purified according to step 1 of Example 8 to give a title product as a yellow solid (31.4 mg, 99.28%).

reactant | 4-Iodo-2-trifluoromethylphenylamine | 0.17 mmol, 50 mg | IC1=CC(=C(C=C1)N)C(F)(F)F | C7H5F3IN
reactant | DMF | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.15 mmol, 18.00 mg, 0.88 eq | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.02 mmol, 19.64 mg, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zn(CN)2 | 0.15 mmol, 18.00 mg, 0.88 eq | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.02 mmol, 19.64 mg, 0.1 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Amino-3-trifluoromethylbenzonitrile | 31.4 mg, 99.28% | NC1=C(C=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
